US05273993
Sulfamic acid 2-(4-methyl-5-thiazolyl)ethyl ester hydrate 2-propanol (2:1:1).
4-Methyl-5-thiazoleethanol (10.0 g, 0.0698 mole) was dissolved in acetonitrile, chilled, and sulfamoyl chloride (10.44 g, 0.091 mole) was added to the stirred solution. Triethylamine (9.19 g, 0.091 mole) was added dropwise while maintaining the temperature between 20°-25° C. A yellow solid precipitated after the addition was completed. The reaction was stirred at room temperature overnight, evaporated to a residue, and the residue partitioned between ethyl acetate/acetonitrile (1:1) and sodium bicarbonate/sodium chloride (1:1). The organic phase was treated with charcoal, dried (magnesium sulfate), filtered, and evaporated to a residue (9.29 g). The residue was dissolved in a small amount of methanol and isopropanol was added. The first crop (2.0 g) crystallized out of isopropanol as the methanol was evaporated. The crystals were collected and dried to yield 2.0 g (13%) of solid, mp 80°-83° C.

reactant | 4-Methyl-5-thiazoleethanol | 0.0698 mole, 10.0 g | CC=1N=CSC1CCO | C6H9NOS
reactant | sulfamoyl chloride | 0.091 mole, 10.44 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | Triethylamine | 0.091 mole, 9.19 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | Sulfamic acid 2-(4-methyl-5-thiazolyl)ethyl ester hydrate 2-propanol | 2.0 g, 13% | CC(C)O.O.CC=1N=CSC1CCOS(N)(=O)=O | InChI=1S/C6H10N2O3S2.C3H8O.H2O/c1-5-6(12-4-8-5)2-3-11-13(7,9)10;1-3(2)4;/h4H,2-3H2,1H3,(H2,7,9,10);3-4H,1-2H3;1H2
